US08614206B2
Sodium hydride (60% dispersion in mineral oil, 183 mg, 4.56 mmol) was added portionwise to dry DMSO (15 mL) under nitrogen at 0° C. The reaction mixture was warmed to room temperature and stirred for 15 min before trimethyl sulfoxonium iodide (0.96 g, 4.36 mmol) was added portionwise. After stirring for 90 min at room temperature, a solution of 4-fluoro-4-(2-methyl-4-nitro-pyrazol-3-yl)cyclohexanone (1.0 g, 4.15 mmol) in DMSO (15 mL) was added dropwise. The mixture was heated at 55° C. for 2 hr, cooled to room temperature, poured into water (200 mL) and extracted with EtOAc (3×60 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure to give a gum. A solution of this gum (1.1 g, 4.15 mmol) in 7 M NH3 in MeOH (30 mL) and DCM (10 mL) was stirred at room temperature for 4 days. The solvent was removed under reduced pressure and the resulting yellow oil (1.1 g, 4.15 mmol) was dissolved in DCM (30 mL) and DIPEA (3.6 mL), 20.7 mmol). The solution was treated with a solution of di-tert-butyl-dicarbonate (1.1 g, 4.98 mmol) in DCM (20 mL) and the reaction mixture was stirred at room temperature for 18 hr. Water (20 mL) was added and the mixture was extracted with DCM (100 mL). The organic layer was passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (50% EtOAC/Petrol 40-60) gave tert-butyl N-[[4-fluoro-1-hydroxy-4-(2-methyl-4-nitro-pyrazol-3-yl)cyclohexyl]methyl]carbamate as a cream foam (858 mg, 56% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.07 and 8.06 (2s, 1H), 5.05-4.95 (m, 1H), 4.09 and 4.07 (2s, 3H), 3.21 (d, J=6.3 Hz, 2H), 2.95-2.72 (m, 2H), 2.54 (s, 1H), 1.99-1.87 (m, 2H), 1.85-1.65 (m, 4H), 1.45 (s, 9H).

reactant | Sodium hydride | 4.56 mmol, 183 mg | [H-].[Na+]
reactant | trimethyl sulfoxonium iodide | 4.36 mmol, 0.96 g | [I-].C[S+](=O)(C)C
reactant | 4-fluoro-4-(2-methyl-4-nitro-pyrazol-3-yl)cyclohexanone | 4.15 mmol, 1.0 g | FC1(CCC(CC1)=O)C=1N(N=CC1[N+](=O)[O-])C | C10H12FN3O3
reactant | di-tert-butyl-dicarbonate | 4.98 mmol, 1.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH3 | 7 M | N | H3N
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | MeOH | 30 mL | CO | CH4O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DIPEA | 3.6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | Water | 20 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | tert-butyl N-[[4-fluoro-1-hydroxy-4-(2-methyl-4-nitro-pyrazol-3-yl)cyclohexyl]methyl]carbamate | FC1(CCC(CC1)(O)CNC(OC(C)(C)C)=O)C=1N(N=CC1[N+](=O)[O-])C | C16H25FN4O5
